US07452893B2
Step 9: cis-1-[3-(2-Amino-ethyl)-cyclobutyl]-3-phenyl-propan-1-ol hydrochloride
A mixture of 0.8 g of cis-{2-[3-(1-hydroxy-3-phenyl-propyl)-cyclobutyl]-ethyl}-carbamic acid tert-butyl ester and 25 mL of 4N HCl in dioxane was stirred at room temperature for 2 h, then concentrated to dryness and triturated with 50 mL of 5% ether in hexane and the solvents decanted. Drying under vacuum gave 0.8 g of the product as an amber resin: LCMS (m+1)=234.6.

reactant | cis-{2-[3-(1-hydroxy-3-phenyl-propyl)-cyclobutyl]-ethyl}-carbamic acid tert-butyl ester | 0.8 g | C(C)(C)(C)OC(NCC[C@@H]1C[C@@H](C1)C(CCC1=CC=CC=C1)O)=O | C20H31NO3
reactant | HCl | 4N, 25 mL | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | cis-1-[3-(2-Amino-ethyl)-cyclobutyl]-3-phenyl-propan-1-ol hydrochloride | 0.8 g | Cl.NCC[C@H]1C[C@H](C1)C(CCC1=CC=CC=C1)O | InChI=1S/C15H23NO.ClH/c16-9-8-13-10-14(11-13)15(17)7-6-12-4-2-1-3-5-12;/h1-5,13-15,17H,6-11,16H2;1H/t13-,14+,15?;
